US09167821B2
To a solution of 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-nitrophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (80 mg) in methanol (10 ml) is added, at room temperature, Pd/C (20 mg, 10%). The reaction mixture is stirred under a hydrogen atmosphere at room temperature for 3 hours, then volatile constituents are removed under reduced pressure. Purification by column chromatography gives 1-(4-{4-[5-(2-aminophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanone (25 mg).

reactant | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[5-(2-nitrophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | 80 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)[N+](=O)[O-])F | C24H22F4N6O4S
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 1-(4-{4-[5-(2-aminophenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidin-1-yl)-2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanone | 25 mg | NC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C(F)F)C(F)F)=O | C24H24F4N6O2S
